US04881965
To 30 ml of chlorosulfonic acid contained in 60 ml of chloroform, 30 g of 3-methyl-1-(2-pyridyl)pyrazole was added dropwise under ice-cooling, followed by stirring at 60° C. for 3 hours. To a residue obtained by evaporating chloroform under reduced pressure, 30 ml of thionyl chloride was added dropwise at about 60° C. over a period of 1 hour. After the addition, the reaction mixture was stirred at 95° C. for 30 minutes while heating under reflux. After cooling, it was poured into ice water and extracted with chloroform, organic layer was washed with water and dried, and thereafter solvent was evaporated under reduced pressure to obtain 49 g of crude 3-methyl-1-(2-pyridyl)pyrazole-4-sulfonylchloride as an oily product. The sulfonylchloride obtained was dissolved in 50 ml of tetrahydrofuran, and then was added dropwise at 0° to 10° C. to 41.4 g of t-butylamine contained in 100 ml of tetrahydrofuran. After stirring at room temperature for 1.5 hour, filtration was carried out, and filtrate obtained was concentrated to give a residue, to which ethyl acetate was added, followed by washing with diluted hydrochloric acid and drying, and then solvent was evaporated to give crystals. Crystals obtained was washed with ether to obtain 48.6 g of the title compound. m.p.: 174° to 175° C.

reactant | chlorosulfonic acid | 30 ml | ClS(=O)(=O)O | ClHO3S
reactant | 3-methyl-1-(2-pyridyl)pyrazole | 30 g | CC1=NN(C=C1)C1=NC=CC=C1 | C9H9N3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methyl-1-(2-pyridyl)pyrazole-4-sulfonylchloride | 49 g | CC1=NN(C=C1S(=O)(=O)Cl)C1=NC=CC=C1 | C9H8ClN3O2S
